.subckt xor node_a node_b node_out vdd gnd 

Mp1 node_b1 node_b vdd vdd CMOSP W={wp1} L={lp1}
+ AS = {5*wp1*LAMBDA} PS = {10*LAMBDA + 2*wp1} AD = {5*wp1*LAMBDA} PD = {10*LAMBDA + 2*wp1}
Mn1 node_b1 node_b gnd gnd CMOSN W={wn1} L={ln1}
+ AS = {5*wn1*LAMBDA} PS = {10*LAMBDA + 2*wn1} AD = {5*wn1*LAMBDA} PD = {10*LAMBDA + 2*wn1}
Mp2 node_a1 node_a vdd vdd CMOSP W={wp2} L={lp2}
+ AS = {5*wp2*LAMBDA} PS = {10*LAMBDA + 2*wp2} AD = {5*wp2*LAMBDA} PD = {10*LAMBDA + 2*wp2}
Mn2 node_a1 node_a gnd gnd CMOSN W={wn2} L={ln2}
+ AS = {5*wn2*LAMBDA} PS = {10*LAMBDA + 2*wn2} AD = {5*wn2*LAMBDA} PD = {10*LAMBDA + 2*wn2}

Mp3 node_z node_a vdd vdd CMOSP W={wp3} L={lp3}
+ AS = {5*wp3*LAMBDA} PS = {10*LAMBDA + 2*wp3} AD = {5*wp3*LAMBDA} PD = {10*LAMBDA + 2*wp3}
Mp4 node_z node_b1 vdd vdd CMOSP W={wp4} L={lp4}
+ AS = {5*wp4*LAMBDA} PS = {10*LAMBDA + 2*wp4} AD = {5*wp4*LAMBDA} PD = {10*LAMBDA + 2*wp4}
Mp5 node_o0 node_a1 node_z vdd CMOSP W={wp5} L={lp5}
+ AS = {5*wp5*LAMBDA} PS = {10*LAMBDA + 2*wp5} AD = {5*wp5*LAMBDA} PD = {10*LAMBDA + 2*wp5}
Mp6 node_o0 node_b node_z vdd CMOSP W={wp6} L={lp6}
+ AS = {5*wp6*LAMBDA} PS = {10*LAMBDA + 2*wp6} AD = {5*wp6*LAMBDA} PD = {10*LAMBDA + 2*wp6}

Mn3 node_o0 node_a node_x gnd CMOSN W={wn3} L={ln3}
+ AS = {5*wn3*LAMBDA} PS = {10*LAMBDA + 2*wn3} AD = {5*wn3*LAMBDA} PD = {10*LAMBDA + 2*wn3}
Mn4 node_x node_b1 gnd gnd CMOSN W={wn4} L={ln4}
+ AS = {5*wn4*LAMBDA} PS = {10*LAMBDA + 2*wn4} AD = {5*wn4*LAMBDA} PD = {10*LAMBDA + 2*wn4}
Mn5 node_o0 node_a1 node_y gnd CMOSN W={wn5} L={ln5}
+ AS = {5*wn5*LAMBDA} PS = {10*LAMBDA + 2*wn5} AD = {5*wn5*LAMBDA} PD = {10*LAMBDA + 2*wn5}
Mn6 node_y node_b gnd gnd CMOSN W={wn6} L={ln6}
+ AS = {5*wn6*LAMBDA} PS = {10*LAMBDA + 2*wn6} AD = {5*wn6*LAMBDA} PD = {10*LAMBDA + 2*wn6}

Mp7 node_out node_o0 vdd vdd CMOSP W={wp7} L={lp7}
+ AS = {5*wp7*LAMBDA} PS = {10*LAMBDA + 2*wp7} AD = {5*wp7*LAMBDA} PD = {10*LAMBDA + 2*wp7}
Mn7 node_out node_o0 gnd gnd CMOSN W={wn7} L={ln7}
+ AS = {5*wn7*LAMBDA} PS = {10*LAMBDA + 2*wn7} AD = {5*wn7*LAMBDA} PD = {10*LAMBDA + 2*wn7}

.ends xor