.subckt fulladder node_a node_b node_cin node_s node_c vdd gnd 

.include xor.sub
.include and.sub
.include or.sub

X1 node_a node_b node_y1 vdd gnd xor
X2 node_a node_b node_y2 vdd gnd and
X3 node_cin node_y1 node_s vdd gnd xor 
X4 node_y1 node_cin node_y3 vdd gnd and 
X5 node_y3 node_y2 node_c vdd gnd or

.ends fulladder
